US07566699B2
To a mixture of 3-[2-(4-carbamoylphenyl)ethyl]-4-hydroxybenzofuran (50 mg) and 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (96 mg) in dichloromethane (3 mL) was added borontrifluoride-diethyl ether complex (0.022 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethylacetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=20/1) to give 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-carbamoylphenyl)ethyl]benzofuran (80 mg). This material was dissolved in methanol (3 mL). To the solution was added sodium methoxide (28% methanol solution, 0.02 mL), and the mixture was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure. To the residue was added a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was treated with dichloromethane. The precipitated crystals were collected by filtration and dried under reduced pressure to give the title compound (13 mg).

reactant | 3-[2-(4-carbamoylphenyl)ethyl]-4-hydroxybenzofuran | 50 mg | C(N)(=O)C1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C17H15NO3
reactant | 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose | 96 mg | C(C)(=O)O[C@H]1[C@@H](OC(C(Cl)(Cl)Cl)=N)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H20Cl3NO10
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-carbamoylphenyl)ethyl]benzofuran | 80 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)C(N)=O | C31H33NO12
